US07923450B2
b) [3-Fluoro-4-(4-methyl-imidazol-1-yl)-phenyl]-[4-(2-methoxy-phenyl)-4,5,6,7-tetrahydro-benzothiazol-2-yl]-amine
The title compound was prepared from [3-fluoro-4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea (45 mg, 0.18 mmol) and crude 2-bromo-6-(2-methoxy-phenyl)-cyclohexanone (153 mg, 0.50 mmol) using in analogous manner the procedure described in example 1b). Obtained as a light-yellow solid (14 mg, 18%). MS ISP (m/e): 435.4 [(M+H)+]. mp 227-230° C.

reactant | [3-fluoro-4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea | 0.18 mmol, 45 mg | FC=1C=C(C=CC1N1C=NC(=C1)C)NC(=S)N | C11H11FN4S
reactant | 2-bromo-6-(2-methoxy-phenyl)-cyclohexanone | 0.50 mmol, 153 mg | BrC1C(C(CCC1)C1=C(C=CC=C1)OC)=O | C13H15BrO2
product | [3-Fluoro-4-(4-methyl-imidazol-1-yl)-phenyl]-[4-(2-methoxy-phenyl)-4,5,6,7-tetrahydro-benzothiazol-2-yl]-amine | FC=1C=C(C=CC1N1C=NC(=C1)C)NC=1SC2=C(N1)C(CCC2)C2=C(C=CC=C2)OC | C24H23FN4OS
